US05273986
A solution composed of 0.49 g of (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine, 0.43 g of 4-carboxymethyl-3-methoxybenzoic acid methyl ester, 0.4 g of N-ethyl-N-(dimethylaminopropyl)carbodiimide and 25 ml of methylene chloride was sealed in a flask and stored at 25° C. for 16 hr. The reaction mixture was then washed with 10 ml of water, dried (MgSO4) and the solvent removed by rotary evaporation. The residual material was purified by silica gel chromatography using ethyl acetate as the eluant to yield 0.62 g of (E)-4-[2-[3-[2-(4-cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]-3-methoxybenzoic acid methyl ester; m.p., 156°-157° C. from ethyl acetate.

reactant | (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine | 0.49 g | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C15H16N2S
reactant | 4-carboxymethyl-3-methoxybenzoic acid methyl ester | 0.43 g | COC(C1=CC(=C(C=C1)CC(=O)O)OC)=O | C11H12O5
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-methoxybenzoic acid methyl ester | COC(C1=CC(=CC=C1)OC)=O | C9H10O3
